US06737548B2
To 5-nitro-1-aminonaphthalene hydrochloride were added water and ethyl acetate. To the mixture was further added a 10% aqueous sodium hydroxide until the aqueous phase became pH 8. Then, the organic phase was separated and the aqueous phase was further extracted with ethyl acetate twice. The combined organic phases were washed with an equal amount of water three times, dried over anhydrous magnesium sulfate and distilled off the solvent, to give 5-nitro-1-aminonaphthalene as a red solid.

reactant | 5-nitro-1-aminonaphthalene hydrochloride | Cl.[N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)N
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-nitro-1-aminonaphthalene | [N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)N | C10H8N2O2
